US08466115B2
(3-bromo-4-iodophenyl)methanol
A solution of methyl 3-bromo-4-iodobenzoate (4.3 g, 12.6 mmol) in CH2Cl2 was cooled, under N2, to −78° C. DIBAL-H (25.2 mL of a 1M solution in CH2Cl2) was added slowly to the solution, which was stirred at −78° C. for 45 minutes and then allowed to come to room temperature. Next, the reaction mixture was diluted with 1M HCL (40 mL) and stirred for 30 minutes. The reaction was further diluted with water and extracted with CH2Cl2. The organic phase was dried (Na2SO4) and concentrated under vacuum to afford the intermediate (3.2 g, 82%) as a solid. 1HNMR (CDCl3) δ ppm: 7.85 (1H), 7.67 (1H), 7.02 (1H), 4.65 (2H), 1.76 (1H, OH).

reactant | methyl 3-bromo-4-iodobenzoate | 12.6 mmol, 4.3 g | BrC=1C=C(C(=O)OC)C=CC1I | C8H6BrIO2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (3-bromo-4-iodophenyl)methanol | 3.2 g, 82% | BrC=1C=C(C=CC1I)CO | C7H6BrIO
